US04563455
A solution of 2-(3-hydroxypropyl)-1-phenyl-1H-benzimidazole (1.15 g) and thionyl chloride (0.6 g) in chloroform (23 ml) was refluxed for 1.5 hours. After being cooled, the mixture was diluted with a saturated aqueous solution of sodium bicarbonate. The chloroform layer was washed with water and a saturated aqueous solution of sodium chloride in turn, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to afford 2-(3-chloropropyl)-1-phenyl-1H-benzimidazole (1.0 g).

reactant | 2-(3-hydroxypropyl)-1-phenyl-1H-benzimidazole | 1.15 g | OCCCC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C16H16N2O
reactant | thionyl chloride | 0.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 23 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(3-chloropropyl)-1-phenyl-1H-benzimidazole | 1.0 g | ClCCCC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C16H15ClN2
